US04315862
(Preparation of Cannabichromene)
The reaction of 5 g. olivetol (27.8 mmole), 1.652 g. n-propylamine (2.3 ml., 27.8 mmole) and 4.6 ml. citral (27.8 mmole) in 55 ml. toluene was carried out in the same manner as described under Example 1. The refluxing time was 7 hours. Gas chromatographic analysis of the reaction mixture showed 61.62% CBC, 4.01% Cannabicitran and trace amount of iso-CBC.

reactant | olivetol | 27.8 mmole | C1(=CC(O)=CC(CCCCC)=C1)O | C11H16O2
reactant | n-propylamine | 27.8 mmole, 2.3 ml | C(CC)N | C3H9N
reactant | citral | 27.8 mmole | CC(C)=CCCC(C)=CC=O | C10H16O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Cannabichromene | CCCCCC=1C=C(C2=C(C1)OC(C=C2)(C)CCC=C(C)C)O | C21H30O2
